US07319099B2
Preparation of 1-{3-Fluoro-4-[4-(2-isopropoxy-5-methanesulfonyl-benzoyl)-piperazin-1-yl]-phenyl}-ethanone oxime
0.12 mmol of 1-{3-Fluoro-4-[4-(2-isopropoxy-5-methanesulfonyl-benzoyl)-piperazin-1-yl]-phenyl}-ethanone was dissolved in 1 ml of a 1:1 mixture of ethanol and water. 0.8 mmol of hydroxylamine hydrochloride was added, followed by 8.4 mmol of sodium acetate. The resulting mixture was stirred overnight at room temperature, diluted with water, filtered, washed and dried to yield the title compound as a colorless solid.

reactant | 1-{3-Fluoro-4-[4-(2-isopropoxy-5-methanesulfonyl-benzoyl)-piperazin-1-yl]-phenyl}-ethanone | 0.12 mmol | FC=1C=C(C=CC1N1CCN(CC1)C(C1=C(C=CC(=C1)S(=O)(=O)C)OC(C)C)=O)C(C)=O | C23H27FN2O5S
reactant | hydroxylamine hydrochloride | 0.8 mmol | Cl.NO
reactant | sodium acetate | 8.4 mmol | C(C)(=O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-{3-Fluoro-4-[4-(2-isopropoxy-5-methanesulfonyl-benzoyl)-piperazin-1-yl]-phenyl}-ethanone oxime | FC=1C=C(C=CC1N1CCN(CC1)C(C1=C(C=CC(=C1)S(=O)(=O)C)OC(C)C)=O)C(C)=NO | C23H28FN3O5S
